US08912287B2
In another reaction vessel, 96.2 g (394 mmol) of 4-trimethylsilyloxy-2,2,6,6-tetramethylpiperidine-N-oxide was dissolved in 100 ml of dehydrated THF, and the Grignard reactant prepared was dropped at 0° C. After a reaction for 3 hours, the solution was concentrated by a rotary evaporator. 500 mL of water was added to the residue and an extraction was carried out using 500 mL in total of ethyl acetate, and the organic layer was concentrated by a rotary evaporator. The residue was purified by column chromatography (silica gel, hexane/ethyl acetate=20/1, volume ratio) to obtain 38.5 g of 1-(1-propyl)oxy-2,2,6,6-tetramethyl-4-trimethylsilyloxypiperidine.

reactant | 4-trimethylsilyloxy-2,2,6,6-tetramethylpiperidine-N-oxide | 394 mmol, 96.2 g | C[Si](OC1CC([NH+](C(C1)(C)C)[O-])(C)C)(C)C | C12H27NO2Si
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(1-propyl)oxy-2,2,6,6-tetramethyl-4-trimethylsilyloxypiperidine | 38.5 g | C(CC)ON1C(CC(CC1(C)C)O[Si](C)(C)C)(C)C | C15H33NO2Si
